US07691867B2
A mixture of ethyl 4-nitro-1H-pyrazole-3-carboxylate (0.685 g, 3.7 mmol) and 2-chloro-N-(3-fluorophenyl) acetamide (0.694 g, 3.7 mmol) and potassium carbonate (0.613 g, 4.44 mmol) in dimethyl formamide (10 ml) was stirred at room temperature for 20 hours. The mixture was evaporated and the residue was purified by silica gel chromatography eluting with a 8 to 10% mixture of ethyl acetate in dichloromethane to give ethyl 1-{2-[(3-fluorophenyl)amino]-2-oxoethyl}-4-nitro-1H-pyrazole-3-carboxylate (0.920 g, 74% yield):

reactant | ethyl 4-nitro-1H-pyrazole-3-carboxylate | 3.7 mmol, 0.685 g | [N+](=O)([O-])C=1C(=NNC1)C(=O)OCC | C6H7N3O4
reactant | 2-chloro-N-(3-fluorophenyl) acetamide | 3.7 mmol, 0.694 g | ClCC(=O)NC1=CC(=CC=C1)F | C8H7ClFNO
reactant | potassium carbonate | 4.44 mmol, 0.613 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 1-{2-[(3-fluorophenyl)amino]-2-oxoethyl}-4-nitro-1H-pyrazole-3-carboxylate | 0.920 g, 74% yield | FC=1C=C(C=CC1)NC(CN1N=C(C(=C1)[N+](=O)[O-])C(=O)OCC)=O | C14H13FN4O5
